US04956359
N-Methyl-N-(2-propenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide hydrate [1:0.5]
A stirred mixture of 2.8 g (0.01 mole) of 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride and 1.4 g (0.01 mole) of potassium carbonate in 20 ml of tetrahydrofuran was treated with 0.72 g (0.01 mole) of N-methylallylamine. After stirring for 15 minutes, a piece of ice was added and stirring continued for 15 hr. The reaction mixture was diluted with water and the oil which separated was extracted into methylene chloride (2×50 ml). The combined extracts were dried over magnesium sulfate and concentrated in vacuo (3.7 g). The crude oil was chromatographed on a 75 g silica gel column by eluting with chloroform. After the first crude material was washed from the column the three product fractions were combined and concentrated in vacuo, to yield 3 g (97%) of water-like oil.

reactant | 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.01 mole, 2.8 g | FC(C=1C=C(OC2CN(C2)C(=O)Cl)C=CC1)(F)F | C11H9ClF3NO2
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylallylamine | 0.01 mole, 0.72 g | CC=CCN | C4H9N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-Methyl-N-(2-propenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide hydrate | O.CN(C(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F)CC=C | InChI=1S/C15H17F3N2O2.H2O/c1-3-7-19(2)14(21)20-9-13(10-20)22-12-6-4-5-11(8-12)15(16,17)18;/h3-6,8,13H,1,7,9-10H2,2H3;1H2
